US05196534
2,3,4,5-Tetrahydro-1H-pyrido[4,3-b]indol-1-one
A solution of 5,6-dihydro-4-(2-phenylhydrazino)-2(1H)-pyridinone (8.0 g) in acetic acid (16 ml) was added over 30 min to concentrated sulphuric acid (16 ml) at 10°-20°. The reaction mixture was stirred for 2 h, then added over 10 min to 2N sodium hydroxide (150 ml) at 15°-25°. The solid product was filtered off, triturated with water (50 ml), then recrystallised from ethanol (20 ml) and dried in vacuo to give the title compound (3.79 g), m.p. 255°, t.l.c. (System B, 100:8:1) Rf 0.2.

reactant | 5,6-dihydro-4-(2-phenylhydrazino)-2(1H)-pyridinone | 8.0 g | C1(=CC=CC=C1)NNC1=CC(NCC1)=O | C11H13N3O
reactant | sulphuric acid | 16 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 150 ml | [OH-].[Na+]
reactant | acetic acid | 16 ml | C(C)(=O)O | C2H4O2
product | 2,3,4,5-Tetrahydro-1H-pyrido[4,3-b]indol-1-one | 3.79 g | C1(NCCC=2NC=3C=CC=CC3C21)=O | C11H10N2O
